US05430032
4-(8-CHLORO-5,11-DIHYDRO[1]BENZOTHIEPINO[4,3-b]PYRIDIN-11-YLIDENE)-1-(4-PYRIDINYLCARBONYL)PIPERIDINE N1 -OXIDE
To a stirred suspension of 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzothiepino[4,3-b]pyridine (1.9 g, 5.73 mmol) and isonicotinic acid N-oxide (0.95 g, 6.83 mmol) in dry dichloromethane (60 mL), add 1-hydroxybenzotriazole hydrate (0.93 g, 6.88 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.32 g, 6.89 mmol). Stir the resultant mixture at room temperature for 20 hours; then introduce additional quantities of the benzotriazole (0.19 g, 1.43 mmol) and carbodiimide (0.27 g, 1.43 mmol), and continue stirring for another 6 hours at room temperature. Wash the reaction mixture successively with 2.5M aqueous sodium hydroxide (15 mL), water (3×10 mL), and brine (15 mL). Dry the washed solution over anhydrous magnesium sulfate, filter out the drying agent, and remove solvent from the filtrate under reduced pressure. Flash chromatograph the residue on silica gel, eluting with dichloromethane/methanol/ammonium hydroxide (95:5:0.125) to obtain the title compound as a hemihydrate (2.29 g, 88% yield): m.p. 167°-169° C. (dec); MS (FAB) m/z 453 [M+ +1].

reactant | 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzothiepino[4,3-b]pyridine | 5.73 mmol, 1.9 g | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CCNCC2)C=C1 | C17H18ClN3S
reactant | isonicotinic acid N-oxide | 6.83 mmol, 0.95 g | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 1-hydroxybenzotriazole hydrate | 6.88 mmol, 0.93 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.89 mmol, 1.32 g | Cl.CN(CCCN=C=NCC)C
reactant | benzotriazole | 1.43 mmol, 0.19 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | carbodiimide | 1.43 mmol, 0.27 g | N=C=N | CH2N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-(8-CHLORO-5,11-DIHYDRO[1]BENZOTHIEPINO[4,3-b]PYRIDIN-11-YLIDENE)-1-(4-PYRIDINYLCARBONYL)PIPERIDINE N1 -OXIDE | ClC1=CC2=C(C(C3=NC=CC=C3CS2)=C2CC[N+](CC2)(C(=O)C2=CC=NC=C2)[O-])C=C1 | C24H20ClN3O2S
